US05278161
In a manner analogous to Example 1, by condensing 3-(2-amino-1,1-diethoxyethyl)pyridine with 3-methyl-2-oxopentanoic acid there is obtained rac-N-[2,2-diethoxy-2-(3-pyridyl)ethyl]-3-methyl-2-oxovaleramide as an amorphous, colorless solid. Subsequent acidic hydrolysis to rac-3-methyl-2-oxo-N-[(3-pyridylcarbonyl)methyl]valeramide hydrochloride (beige, crystalline solid, melting point 158°-159°) and ring closure gives rac-3-(1-methylpropyl)-5-(3-pyridyl)-2(1H)-pyrazinone as a yellow solid, melting point 146°-148° (from acetonitrile). The conversion into rac-2-chloro-3-(1-methylpropyl)-5-(3-pyridyl)pyrazine is also effected analogously to Example 1. Hydrazinolysis to rac-2-hydrazino-3-(1-methylpropyl)-5-(3-pyridyl)pyrazine in the form of beige crystals, melting point 166°-167° (from ethanol/water) and subsequent condensation with diethyl malonate gives ethyl rac-8-(1-methylpropyl)-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, MS: 335 (M)+, which is converted by saponification into the above acid, MS: 267 (M-CO 2)+.

reactant | rac-2-chloro-3-(1-methylpropyl)-5-(3-pyridyl)pyrazine | ClC1=NC=C(N=C1C(CC)C)C=1C=NC=CC1 | C13H14ClN3
reactant | rac-2-hydrazino-3-(1-methylpropyl)-5-(3-pyridyl)pyrazine | N(N)C1=NC=C(N=C1C(CC)C)C=1C=NC=CC1 | C13H17N5
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol water | C(C)O.O
product | ethyl rac-8-(1-methylpropyl)-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | CC(CC)C=1C=2N(C=C(N1)C=1C=NC=CC1)C(=NN2)CC(=O)OCC | C18H21N5O2
